US05145766
12.0 g of 3,5-di-tert-butyl-2',4,4'-trihydroxybenzophenone and 3.9 g of triethylamine are dissolved in 20 ml of tetrahydrofuran and 40 ml of toluene. The orange-beige solution is cooled to 0° C. A solution of 11.2 g of 3,5-di-tert-butyl-4-hydroxyphenylpropionyl chloride in 40 ml of toluene is added dropwise at between 0° and 5° C. over the course of 1 hour with vigorous stirring, and the mixture is subsequently stirred at room temperature for 2 days. The reaction mixture is poured into 700 ml of ice-water, and the phases are separated. The aqueous phase is extracted with toluene, and the toluene phases are combined, washed, dried and evaporated under reduced pressure. The beige oil is chromatographed on silica gel and recrystallised from petroleum ether (40°-60° C.)/ethyl acetate, giving 21.0 g of 4'-[3,5-di-tert-butyl-4-hydroxyphenylpropionyloxy]-3,5-di-tert-butyl-2',4-dihydroxybenzophenone of melting point 145°-147° C.

reactant | 3,5-di-tert-butyl-2',4,4'-trihydroxybenzophenone | 12.0 g | C(C)(C)(C)C=1C=C(C(=O)C2=C(C=C(C=C2)O)O)C=C(C1O)C(C)(C)C | C21H26O4
reactant | triethylamine | 3.9 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-di-tert-butyl-4-hydroxyphenylpropionyl chloride | 11.2 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)Cl | C17H25ClO2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-[3,5-di-tert-butyl-4-hydroxyphenylpropionyloxy]-3,5-di-tert-butyl-2',4-dihydroxybenzophenone | 21.0 g | C(C)(C)(C)C(CC(=O)OC1=CC(=C(C=C1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)O)C1=CC=C(C(=C1)C(C)(C)C)O | C38H50O6
